US08471005B2
Into an 8 dram vial, {2-[4-(4-{7-[2-(Methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-benzyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester (78 mg, 0.11 mmol), Methylene chloride (2.00 mL), and Trifluoroacetic Acid (1.00 mL, 13.0 mmol) were added. The reaction was stirred at room temperature over the weekend. The reaction was partitioned with saturated NaHCO3 and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The collected fractions were lyophilized to give a yellow solid The solid was partitioned with saturated NaHCO3 and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The collected fractions afforded N-[2-(2-{4-[4-(2-Amino-acetyl)-piperazin-1-ylmethyl]-2-methoxy-phenylamino}-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide as a yellow solid. LCMS (E/I+) 579.09 (M+H). NMR 1H (DMSO-d6)-8.96 (s, 1H), 7.93-7.99 (m, 1H), 7.90 (d, 1H, J=8.05 Hz), 7.72 (s, 1H), 7.63-7.73 (m, 1H), 7.52-7.58 (m, 2H), 7.00 (d, 1H, J=4.66 Hz), 6.93-6.98 (m, 2H), 6.74 (d, 1H, J=7.94 Hz), 3.84 (s, 3H), 3.35-3.46 (m, 8H), 3.05 (s, 3H), 2.88 (s, 3H), 2.32 (bs, 4H).

reactant | {2-[4-(4-{7-[2-(Methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-benzyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | 0.11 mmol, 78 mg | C(C)(C)(C)OC(NCC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(C)S(=O)(=O)C)OC)=O | C33H42N8O6S
reactant | Trifluoroacetic Acid | 13.0 mmol, 1.00 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | Methylene chloride | 2.00 mL | C(Cl)Cl | CH2Cl2
product | N-[2-(2-{4-[4-(2-Amino-acetyl)-piperazin-1-ylmethyl]-2-methoxy-phenylamino}-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | NCC(=O)N1CCN(CC1)CC1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)OC | C28H34N8O4S
